US04595535
To a suspension of 0.61 g of sodium hydride in 50 ml of tetrahydrofuran, 5 g of 5-mercapto-3-(o-nitrobenzyl)-1,2,4-triazole is added in portions with stirring at room temperature over a period of 30 minutes. The mixture is stirred for 2 hours, 1.51 ml of methyl iodide is added at once, the mixture is stirred overnight at room temperature and evaporated to dryness in vacuo. The residue is treated with water and methylene chloride, the aqueous layer is extracted once more with methylene chloride, the combined organic extracts are dried over magnesium sulfate, evaporated to a small volume and diluted with ether to give 5-methylmercapto-3-(o-nitrobenzyl)-1,2,4-triazole, m.p. 120°-132°.

reactant | sodium hydride | 0.61 g | [H-].[Na+]
reactant | 5-mercapto-3-(o-nitrobenzyl)-1,2,4-triazole | 5 g | SC1=NC(=NN1)CC1=C(C=CC=C1)[N+](=O)[O-] | C9H8N4O2S
reactant | methyl iodide | 1.51 ml | CI | CH3I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-methylmercapto-3-(o-nitrobenzyl)-1,2,4-triazole | CSC1=NC(=NN1)CC1=C(C=CC=C1)[N+](=O)[O-] | C10H10N4O2S
